US07244759B2
To a solution of (3R)-3-(7-amino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropionamide (0.5 g, 1.3 mmol) and trimethylacetaldehyde (0.26 mL, 2.3 mmol) in 1,2-dichloroethane (10 mL), was added sodium triacetoxyborohydride (0.53 g, 2.5 mmol) at room temperature. After 1 day, the mixture was extracted with methylene chloride (50 mL) and water (20 mL). The organic layer was washed with sodium hydrogen carbonate (sat, 25 mL) and brine (25 mL), and dried over MgSO4. Removal of solvent gave a yellow oil, which was purified by prep HPLC to give (3R)-3-[7-(2,2-dimethyl-propylamino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethyl-propionamide as a white solid (0.59 g, 99% yield): mp 111-113° C.; 1H NMR (CDCl3) δ 1.01 (s, 9H, 3 CH3), 1.43 (t, J=7 Hz, 3H, CH3), 2.89 (s, 3H, CH3), 2.98 (d, J=6 Hz, 2H, CH2), 3.07 (dd, J=6, 15 Hz, 1H, CHH), 3.11 (s, 3H, CH3), 3.45 (dd, J=9, 15 Hz, 1H, CHH), 3.84 (s, 3H, CH3), 4.08 (q, J=7 Hz, 2H, CH2), 4.12 (d, J=16 Hz, 1H, CHH), 4.33 (d, J=16 Hz, 1H, CHH), 5.59 (dd, J=7, 9 Hz, 1H, NCH), 6.47-6.51 (m, 2H, Ar), 6.79-7.01 (m, 4H, NH, Ar), 7.22 (t, J=8 Hz, 1H, Ar); 13C NMR (CDCl3) δ 14.75, 27.63, 32, 27, 35.52, 36.67, 37.54, 48.56, 53.10, 54.49, 55.95, 64.42, 107.82, 108.77, 111.25, 112.66, 114.58, 119.22, 132.35, 132.96, 143.09, 148.16, 148.41, 148.81, 169.97, 170.79. Analy. calculated for C27H37N3O4: C, 69.35; H, 7.98; N, 8.99. Found: C, 69.70; H, 7.95; N, 8.74.

reactant | (3R)-3-(7-amino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropionamide | 1.3 mmol, 0.5 g | NC=1C=CC=C2CN(C(C12)=O)[C@H](CC(=O)N(C)C)C1=CC(=C(C=C1)OC)OCC | C22H27N3O4
reactant | trimethylacetaldehyde | 2.3 mmol, 0.26 mL | CC(C=O)(C)C | C5H10O
reactant | sodium triacetoxyborohydride | 2.5 mmol, 0.53 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | (3R)-3-[7-(2,2-dimethyl-propylamino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethyl-propionamide | 0.59 g, 99% yield | CC(CNC=1C=CC=C2CN(C(C12)=O)[C@H](CC(=O)N(C)C)C1=CC(=C(C=C1)OC)OCC)(C)C | C27H37N3O4
